US08466282B2
2-methoxy-5-(4-methoxybutyl)-N-(2-methylpropyl)-N-[(3S,5R)-5-(morpholin-4-ylcarbonyl)piperidin-3-yl]-1-phenyl-1H-imidazole-4-carboxamide fumarate
tert-Butyl (3S,5R)-3-[{[2-methoxy-5-(4-methoxybutyl)-1-phenyl-1H-imidazol-4-yl]carbonyl}(2-methylpropyl)amino]-5-(morpholin-4-ylcarbonyl)piperidine-1-carboxylate (110 mg) was dissolved in trifluoroacetic acid (25% toluene solution, 4 ml), and the mixture was stirred at room temperature for 4 hr. The reaction mixture was basified with saturated aqueous potassium carbonate solution, and extracted with ethyl acetate. The extract was washed with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure. The residue was subjected to silica gel column chromatography, and a fraction eluted with ethyl acetate-hexane-methanol (50:50:0-100:0:0-85:0:15) was concentrated under reduced pressure. The residue was dissolved in methanol (2 ml), fumaric acid (15 mg) was added and the mixture was stirred at room temperature for 1 hr. The reaction mixture was concentrated under reduced pressure to give the object product (86 mg).

reactant | tert-Butyl (3S,5R)-3-[{[2-methoxy-5-(4-methoxybutyl)-1-phenyl-1H-imidazol-4-yl]carbonyl}(2-methylpropyl)amino]-5-(morpholin-4-ylcarbonyl)piperidine-1-carboxylate | 110 mg | COC=1N(C(=C(N1)C(=O)N([C@@H]1CN(C[C@@H](C1)C(=O)N1CCOCC1)C(=O)OC(C)(C)C)CC(C)C)CCCCOC)C1=CC=CC=C1 | C35H53N5O7
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | trifluoroacetic acid | 4 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 2-methoxy-5-(4-methoxybutyl)-N-(2-methylpropyl)-N-[(3S,5R)-5-(morpholin-4-ylcarbonyl)piperidin-3-yl]-1-phenyl-1H-imidazole-4-carboxamide fumarate | 86 mg | C(\C=C\C(=O)O)(=O)O.COC=1N(C(=C(N1)C(=O)N([C@@H]1CNC[C@@H](C1)C(=O)N1CCOCC1)CC(C)C)CCCCOC)C1=CC=CC=C1 | InChI=1S/C30H45N5O5.C4H4O4/c1-22(2)21-34(25-18-23(19-31-20-25)28(36)33-13-16-40-17-14-33)29(37)27-26(12-8-9-15-38-3)35(30(32-27)39-4)24-10-6-5-7-11-24;5-3(6)1-2-4(7)8/h5-7,10-11,22-23,25,31H,8-9,12-21H2,1-4H3;1-2H,(H,5,6)(H,7,8)/b;2-1+/t23-,25+;/m1./s1
